US08071584B2
1-[(5-Bromo-2-thienyl)methyl]hexahydro-1H-azepine
5-Bromo-2-thiophenecarbaldehyde (191 mg, 1 mmol) was diluted in a mixture of dichloromethane (6 mL) and N,N-dimethylformamide (2 mL), and cooled to 0° C. Hexahydro-1H-azepine (0.17 mL, 1.5 mmol, 1.5 eq) was added, followed by sodium triacetoxyborohydride (1.04 g, 4.9 mmol, 4.9 eq) and glacial acetic acid (2 drops). The mixture was stirred at 23° C. for 3 h. The reaction mixture was carefully quenched with saturated aqueous sodium bicarbonate. The reaction mixture was extracted with ethyl acetate, dried over sodium sulfate, filtered, and concentrated. The crude product was purified by isco combiflash, 40 g column, using a 0-70% ethyl acetate in hexanes gradient. The product fractions were concentrated to give the title compound as clear colorless oil (200 mg, 73%).

reactant | 5-Bromo-2-thiophenecarbaldehyde | 1 mmol, 191 mg | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | Hexahydro-1H-azepine | 1.5 mmol, 0.17 mL, 1.5 eq | N1CCCCCC1 | C6H13N
reactant | sodium triacetoxyborohydride | 4.9 mmol, 1.04 g, 4.9 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | 1-[(5-Bromo-2-thienyl)methyl]hexahydro-1H-azepine | 200 mg, 73% | BrC1=CC=C(S1)CN1CCCCCC1 | C11H16BrNS
